US04992474
3-[[(6-Bromohexyl)oxy]propyl]benzene
3-Phenylpropanol (3.00 g) and 1,6-dibromohexane (16.10 g, 10.2 ml) were stirred rapidly at RT with tetra-n-butylammonium hydrogen sulphate (0.5 g) and 12.5M aqueous NaOH (16 ml) for 30 h. The mixture was diluted with H2O (80 ml), extracted with ER (3×100 ml), and the combined organic extracts were washed consecutively with H2O (80 ml) and BR (80 ml). The dried extracts were evaporated and the residual oil purified by [FCS], eluting with CX (one columnful), followed by EA-CX (1:20) to give the title compound (5.35 g) as a colourless oil.

reactant | 3-Phenylpropanol | 3.00 g | C1(=CC=CC=C1)CCCO | C9H12O
reactant | 1,6-dibromohexane | 10.2 ml, 16.10 g | BrCCCCCCBr | C6H12Br2
reactant | NaOH | 12.5M, 16 ml | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulphate | 0.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | 80 ml | O | H2O
product | 3-[[(6-Bromohexyl)oxy]propyl]benzene | 5.35 g | BrCCCCCCOCCCC=1C=CC=CC1 | C15H23BrO
